# 3rd order Butterworth bandpass filter
Vac:Vin n1 gnd V=1 f=1k
R:R1 n1 n2 R=50
C:C1 n2 gnd C=159.2p
L:L1 n2 gnd L=16.08n
C:C2 n2 n3 C=3.215p
L:L2 n3 n4 L=759.8n
C:C3 n4 gnd C=159.2p
L:L3 n4 gnd L=16.08n
R:RL n4 gnd R=50
.ac type="log" start=50M stop=200M points=1k
