Vac:Vin pow gnd amplitude=1 frequency=1000
R:R1 pow vout R=1k
C:C1 vout gnd C=100u
R:R2 vout gnd R=1k
.tran stopTime=3m timeStep=1u sweep C1 C 1u 3u 3
